US08124639B2
To a stirring solution of oxalyl chloride (7.8 mL, 89.5 mmol) in 370 mL of anhydrous CH2Cl2 at −78° C., under Nitrogen, was added DMSO (13.8 mL, 193.9 mmol) dropwise. After 10 minutes, 6-Hydroxymethyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester (15.9 gm, 74.5 mmol) in 72 mL anhydrous CH2Cl2 was added. After the mixture stirred 30 minutes, triethylamine (52.0 mL, 372.9 mmol) was added and the mixture was allowed to slowly warm to 0° C. over 1 hour. The mixture was concentrated, the resulting solid was taken up in saturated NaHCO3 and EtOAc, the layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried, filtered and concentrated to give a quantitative crude yield of 6-Formyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester (15.8 gm), which was used in the next step without purification. 400 MHz 1H NMR (CDCl3) δ 9.4 (d, J=4.1 Hz, 1H), 3.6 (dd, J=11.2 Hz, 37.8 Hz, 2H), 3.4 (d, J=9.95, 2H), 2.1 (m, 2H), 1.8-1.7 (q, J=3.32 Hz, 1H), 1.4 (s, 9H); GCMS (M+0) 211.0.

reactant | oxalyl chloride | 89.5 mmol, 7.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 193.9 mmol, 13.8 mL | CS(=O)C | C2H6OS
reactant | 6-Hydroxymethyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 74.5 mmol, 15.9 gm | C(C)(C)(C)OC(=O)N1CC2C(C2C1)CO | C11H19NO3
reactant | triethylamine | 372.9 mmol, 52.0 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 370 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 72 mL | C(Cl)Cl | CH2Cl2
product | 6-Formyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 15.8 gm | C(C)(C)(C)OC(=O)N1CC2C(C2C1)C=O | C11H17NO3
